US04146721
32 grams phosphorus oxychloride were added dropwise at 0°-5° C. to 75 grams dimethylformamide. The mixture was thereafter stirred for 1 hours at room temperature. Thereafter, 25 grams 1,3,5-triphenyl-pyrazol were added to the mixture, which was then stirred for 8 hours at 80° C. The reaction mixture, which was evaporated and water added to the residue. The pH of the aqueous mixture was adjusted to 8-10. The precipitate was separated and crystallized from ethanol. 22 grams 1,3,5-triphenyl-pyrazol-4-aldehyde, melting at 159°-160° C., were obtained, representing a yield of 80%.

reactant | phosphorus oxychloride | 32 grams | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1,3,5-triphenyl-pyrazol | 25 grams | C1(=CC=CC=C1)N1N=C(C=C1C1=CC=CC=C1)C1=CC=CC=C1 | C21H16N2
reactant | dimethylformamide | 75 grams | CN(C=O)C | C3H7NO
product | 1,3,5-triphenyl-pyrazol-4-aldehyde | 22 grams, yield of 80% | C1(=CC=CC=C1)N1N=C(C(=C1C1=CC=CC=C1)C=O)C1=CC=CC=C1 | C22H16N2O
